US07202364B2
A mixture of N-(6-acetyloxy-2-naphthyl)carbamic acid ethyl ester (670 mg, 2.45 mmol), N-chlorosuccinimide (326 mg, 2.45 mmol) and 1 M HCl in acetic acid (2.45 mL, 2.45 mmol) in acetic acid (10 mL) is heated at 50° C. under N2 atmosphere for 1 hour. After cooling to room temperature the mixture is partitioned between EtOAc and water. The organic layer is washed with brine, dried (Na2SO4) and concentrated by rotary evaporator to give N-(6-acetyloxy-1-chloro-2-naphthyl)carbamic acid ethyl ester as a white solid.

reactant | N-(6-acetyloxy-2-naphthyl)carbamic acid ethyl ester | 2.45 mmol, 670 mg | C(C)OC(NC1=CC2=CC=C(C=C2C=C1)OC(C)=O)=O | C15H15NO4
reactant | N-chlorosuccinimide | 2.45 mmol, 326 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | HCl | 1 M | Cl | ClH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.45 mmol, 2.45 mL | C(C)(=O)O | C2H4O2
product | N-(6-acetyloxy-1-chloro-2-naphthyl)carbamic acid ethyl ester | C(C)OC(NC1=C(C2=CC=C(C=C2C=C1)OC(C)=O)Cl)=O | C15H14ClNO4
